US04137313
2,5-Dihydro-2,5-dimethyl-4-hydroxy-N-(2-thiazolyl)-1,2-thiazino-[5,6-b]indole-3-carboxamide-1,1-dioxide was prepared analogous to Example 36 from N-(n-butyl)-2,5-dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide and 2-amino-thiazole with a yield of 37% of theory; M.p.: 260°-261° C. (decomp.)

reactant | N-(n-butyl)-2,5-dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide | C(CCC)NC(=O)C=1N(S(C2=C(N(C=3C=CC=CC23)C)C1O)(=O)=O)C | C17H21N3O4S
reactant | 2-amino-thiazole | NC=1SC=CN1 | C3H4N2S
product | 2,5-Dihydro-2,5-dimethyl-4-hydroxy-N-(2-thiazolyl)-1,2-thiazino-[5,6-b]indole-3-carboxamide-1,1-dioxide | yield of 37% | CN1S(C2=C(N(C=3C=CC=CC23)C)C(=C1C(=O)NC=1SC=CN1)O)(=O)=O | C16H14N4O4S2
